US07968538B2
N-(1-(5-Chloro-2-methoxyphenyl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine
N-(1-(5-Chloro-2-methoxyphenyl)ethyl)-5-fluoro-2-(methylsulfonyl)benzenamine (50.0 mg, 0.14 mmol), piperazine (36.0 mg, 0.42 mmol), N,N-diisopropylethylamine (36.0 mg, 0.28 mmol) were stirred at 80° C. in dry acetonitrile (5 mL) for 48 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and the crude compound was purified by silica chromatography using 15% methanol in dichloromethane to afford the title compound (15.0 mg, 25% yield). 1H NMR (400 MHz, CDCl3): δ 7.55 (d, 1H), 7.16 (d, 1H), 6.81 (d, 1H), 6.58 (d, 1H), 6.22 (d, 1H), 5.83 (s, 1H), 5.30 (s, 1H), 4.85 (m, 1H), 3.87 (s, 3H), 3.11 (m, 4H), 2.91 (m, 4H), 1.51 (d, 3H); MS (ESI) m/z: Calculated for C20H27ClN3O3S: 424.15; Observed: 424.4 (M+).

reactant | N-(1-(5-Chloro-2-methoxyphenyl)ethyl)-5-fluoro-2-(methylsulfonyl)benzenamine | 0.14 mmol, 50.0 mg | ClC=1C=CC(=C(C1)C(C)NC1=C(C=CC(=C1)F)S(=O)(=O)C)OC | C16H17ClFNO3S
reactant | piperazine | 0.42 mmol, 36.0 mg | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 0.28 mmol, 36.0 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-(1-(5-Chloro-2-methoxyphenyl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine | 15.0 mg, 25% yield | ClC=1C=CC(=C(C1)C(C)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C)OC | C20H26ClN3O3S
